US04381297
A mixture of 3-phenylpropanol (2.68 g., 20 mmole), triphenyl-(2-keto-n-heptyl)phosphonium chloride (8.22 g., 20 mmole), sodium carbonate (2.36 g., 22.3 mmole) and water (20 ml.) in tetrahydrofuran (70 ml.) is refluxed for 6 hours under an atmosphere of argon. The cooled mixture is diluted with ethyl ether and the layers separate. The organic phase is washed with saturated sodium chloride solution, dried over Na2SO4 and evaporated. The residue is taken up in hexane and insoluble triphenyl phosphine oxide is filtered off. The residue obtained on evaporation of the hexane is purified by flash chromatography on silica gel (120 g.) eluting with ethyl ether/hexane (1:30) to give two isomers of 1-phenyl-3-decen-5-one; 2.93 g. Rf (ethyl ether/hexane 1:4) 0.73 and 0.42 g. Rf (ethyl ether/hexane 1:4) 0.85.

reactant | 3-phenylpropanol | 20 mmole, 2.68 g | C1(=CC=CC=C1)CCCO | C9H12O
reactant | triphenyl-(2-keto-n-heptyl)phosphonium chloride | 20 mmole, 8.22 g | [Cl-].C1(=CC=CC=C1)[P+](CC(CCCCC)=O)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium carbonate | 22.3 mmole, 2.36 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-phenyl-3-decen-5-one | C1(=CC=CC=C1)CCC=CC(CCCCC)=O | C16H22O
